US05578737
9,9-bis(2-hydroxy-4,5-dimethylphenyl)fluorene
H-1 NMR: (DMSO) delta from tetramethylsilane 1.82 (singlet, CH3, 3H), 2.01 (singlet, CH3, 3H), 6.32-6.46 (doublet, 4H), 7.17-7.33 (multiplet, 4H ), 7.78-7.88 (multiplet, 4H), 8.69 (singlet, 2H, OH); C-13 NMR: (DMSO) (ppm) 18.8 (CH3), 19.0 (CH3), 61.5 (quaternary carbon), 117.2, 119.8, 124.7, 126.2, 126.9, 127.3, 127.9, 128.2, 134.2, 139.3, 152.6, 153.5. 2',3',6',7'-tetramethylspiro[fluorene-9,9'-xanthene] H-1NMR: (CDCl3) delta from tetramethylsilane 1.87 (singlet, CH3, 3H), 2.16 (singlet, CH3, 3H), 6.08 (singlet, 2H), 6.97 (singlet, 2H), 7.15-7.36 (multiplet, 6H), 7.76-7.79 (doublet, 2H). C-13 NMR: (CDCl3) (ppm) 18.9 (CH3), 19.4 (CH3), 53.7 (quaternary carbon), 117.4, 119.8, 121.7, 125.6, 127.5, 128.2, 128.3, 131.1 136.6, 139.6, 149.5, 155.5

reactant | 2',3',6',7'-tetramethylspiro[fluorene-9,9'-xanthene] | CC1=CC=2C3(C4=CC(=C(C=C4OC2C=C1C)C)C)C1=CC=CC=C1C=1C=CC=CC13 | C29H24O
solvent | DMSO | CS(=O)C | C2H6OS
product | 9,9-bis(2-hydroxy-4,5-dimethylphenyl)fluorene | OC1=C(C=C(C(=C1)C)C)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=C(C(=C1)C)C)O | C29H26O2
